US08541362B2
All reactions reported in this example were carried out in an oven-dried three-necked, round-bottomed flasks equipped with a Teflon-coated magnetic stirring bar, copper iodide and a T-joint to which an argon-filled balloon had been attached. The flask was evacuated while being heated, then purged with argon from the balloon. This operation was repeated three times before addition of any reagents or solvents. To a stirred suspension of cuprous iodide (2.38 g, 12.5 mmol) in 30 mL of dried THF at ca −78° C. under argon, cyclopropylmagnesium bromide in THF solution (0.5M, 50 ml, 25 mmol) was added via syringe. After the addition had been completed, the mixture was stirred for 30 min and a solution of ethyl 7-iodoheptanoate (3.02 g, 10.63 mmol) in 10 ml of THF was added. After the addition, the reaction was allowed to warm to 0° C. and stirred for 2 h. It was allowed to warm to ambient temperature and stirred overnight. The reaction was poured into a saturated ammonium chloride solution. The organic product was extracted into an ether layer which was washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to yield a residue. 1H NMR confirmed the desired ethyl 7-cyclopropylheptanoate. GC indicated a single peak material. To the residue were added 25 mL of water and a 25 ml of a solution of NaOH (2N). The mixture was stirred at ambient temperature overnight. The alkaline solution was washed with ether. The aqueous layer was separated and subjected to in vacuo evaporation to remove any residual ether. The alkaline solution was acidified with an aqueous solution of HCl (2N) leading to the precipitation of a white solid. Stirring was continued for an additional 30 minutes and then the precipitate was filtered off with suction through a sintered glass funnel. The collected solid was successively washed with water and two-50-ml of hexane, and was dried in vacuo at room temperature for 2 days to afford 0.72 g (40%) of 7-cyclopropylheptanoic acid as a white solid. 1H NMR (400 MHz DMSO-d6) δ: 0 (m, 2H), 0.37 (m, 2H), 0.66 (m, 1H), 1.16-1.18(m, 2H), 1.34-1.50 (m, 6H), 1.78 (m, 2H), 2.20 (m, 2H), 12.0 (s, 1H). 13C NMR (100 MHz DMSO-d6) δ: 4.27, 10.65, 24.50, 28.61, 29.05, 33.64, 34.01, 174.43. Anal. Calcd for C10H18O2: C, 70.22; H, 10.66. Found: C, 70.05, H, 10.34 with a Karl Fisher water content %: 0.46.

reactant | cyclopropylmagnesium bromide | C1(CC1)[Mg]Br
reactant | ethyl 7-iodoheptanoate | 10.63 mmol, 3.02 g | ICCCCCCC(=O)OCC | C9H17IO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl 7-cyclopropylheptanoate | C1(CC1)CCCCCCC(=O)OCC | C12H22O2
reactant | NaOH | 2N | [OH-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | copper iodide | [Cu](I)I
solvent | THF | 25 mmol, 0.5M, 50 ml | C1CCOC1 | C4H8O
solvent | water | 25 mL | O | H2O
product | 7-cyclopropylheptanoic acid | 0.72 g, 40% | C1(CC1)CCCCCCC(=O)O | C10H18O2
